US09029393B2
Method C: POCl3/Pyridine Coupling:
To a solution of compound AE or AM′ (1.0 equiv.) in pyridine under argon atmosphere and cooled at −20° C./0° C., the selected amine (5.0 equiv.) and phosphorus oxychloride (1.5 equiv) were successively added. After 30-40 min at 0° C., the reaction was treated with HCl 1M and extracted with AcOEt. The organic layer was washed with brine, dried over MgSO4 and concentrated under reduced pressure. Purification by flash-chromatography afforded the product.

reactant | phosphorus oxychloride | 1.5 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 1M | Cl | ClH
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | POCl3 Pyridine | O=P(Cl)(Cl)Cl.N1=CC=CC=C1 | InChI=1S/C5H5N.Cl3OP/c1-2-4-6-5-3-1;1-5(2,3)4/h1-5H;
